US06288103B1
Methyl N-(3,4-dichlorophenylsulphonyl)indole-2-carboxylate
Methyl indole-2-carboxylate (0.15 g) was dissolved in DMF and sodium hydride (41 mg) was added in a single portion. The reaction was stirred for 1 hour, then 3,4-dichlorobenzenesulphonyl chloride (0.25 g) was added in a single portion. Stirring was continued for a further 2 hours and then the reaction was quenched by the addition of water. The reaction mixture was partitioned between water and ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-5% ethyl acetate as eluent to give the desired end product as a solid (51%). NMR δ (CDCl3) 3.96 (s, 3H), 7.22-8.20 (m, 8H); M/z (+) 384 (MH+), 352, 175.

reactant | Methyl indole-2-carboxylate | 0.15 g | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | sodium hydride | 41 mg | [H-].[Na+]
reactant | 3,4-dichlorobenzenesulphonyl chloride | 0.25 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl N-(3,4-dichlorophenylsulphonyl)indole-2-carboxylate | 51% | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(=O)OC | C16H11Cl2NO4S
